US05580886
N-[2-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-3-pyridinecarboxamide Dihydrochloride Hydrate
To a mixture of 2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethylamine (1.17 g, 4.34 mmol) and triethylamine (1.08 g, 10.8 mmol) in chloroform (30 ml) was added nicotinoyl chloride hydrochloride (0.96 g, 5.4 mmol) in one portion. The mixture was stirred for 1 hour at room temperature. The solution was diluted with methylene chloride (DCM) and washed with brine and dried over anhydrous MgSO4. The solution was concentrated and the crude product was purified by flash chromatography over a silica gel column (SiO2, 25 g; eluted with DCM and 1-3% MeOH in DCM). The free base thus purified weighed 1.7 g. This product was treated with 1M.HCl in ethanol and recrystallized twice from methanol:isiproply ether to yield white crystals, 1.19 g, m.p. 243°-245° C. as a dihydrochloride hydrate.

reactant | 2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethylamine | 4.34 mmol, 1.17 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCN)C=C1 | C14H18FN3O
reactant | triethylamine | 10.8 mmol, 1.08 g | C(C)N(CC)CC | C6H15N
reactant | nicotinoyl chloride hydrochloride | 5.4 mmol, 0.96 g | Cl.C(C1=CN=CC=C1)(=O)Cl
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[2-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-3-pyridinecarboxamide Dihydrochloride Hydrate | O.Cl.Cl.FC1=CC2=C(C(=NO2)C2CCN(CC2)CCNC(=O)C=2C=NC=CC2)C=C1 | InChI=1S/C20H21FN4O2.2ClH.H2O/c21-16-3-4-17-18(12-16)27-24-19(17)14-5-9-25(10-6-14)11-8-23-20(26)15-2-1-7-22-13-15;;;/h1-4,7,12-14H,5-6,8-11H2,(H,23,26);2*1H;1H2
